US07414061B2
1-(4-{4-[3-(4-Fluoro-phenyl)-5-hydroxymethyl-isoxazol-4-yl]-imidazol-1-yl}-phenyl)-ethanone
To a stirred solution of 1-(4-{4-[3-(4-fluoro-phenyl)-5-methoxymethyl-isoxazol-4-yl]-imidazol-1-yl}-phenyl)-ethanone (239 mg, 0.61 mmol) in dry dichloromethane (4 mL) was added slowly boron tribromide (0.17 mL, 0.3 mmol) at dry ice-acetone bath cooling temperature. After complete addition, the resulting mixture was stirred at −78° C. for 15 min, and −15° C. for 35 min, and then allowed to warm up to room temperature for 20 min. The reaction was quenched with saturated sodium bicarbonate (30 mL). The organic layer was separated, and the aqueous phase was extracted with dichloromethane and ethylacetate. The combined organic extracts were then dried over sodium sulphate and evaporated. Purification by preparative HPLC afforded the title compound (35 mg, 15%) which was obtained as an off-white solid. MS: m/e=378.0 [M+H]+.

reactant | 1-(4-{4-[3-(4-fluoro-phenyl)-5-methoxymethyl-isoxazol-4-yl]-imidazol-1-yl}-phenyl)-ethanone | 0.61 mmol, 239 mg | FC1=CC=C(C=C1)C1=NOC(=C1C=1N=CN(C1)C1=CC=C(C=C1)C(C)=O)COC | C22H18FN3O3
reactant | boron tribromide | 0.3 mmol, 0.17 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 1-(4-{4-[3-(4-Fluoro-phenyl)-5-hydroxymethyl-isoxazol-4-yl]-imidazol-1-yl}-phenyl)-ethanone | 35 mg, 15% | FC1=CC=C(C=C1)C1=NOC(=C1C=1N=CN(C1)C1=CC=C(C=C1)C(C)=O)CO | C21H16FN3O3
